US06531502B1
Crude 4-(2-morpholin-4-ylcyclohex-1-enyl)-4-oxo-butyric acid ethyl ester (454 g), 398 g of diethyl aminomalonate hydrochloride, 162 g of sodium acetate and 350 mL of glacial acetic acid were heated to 108° C. over 30 minutes. The mixture was held at 100-108° C. for 2 hours and then cooled to about 50° C. in a water bath. Water (2500 mL) and 700 mL of ethyl acetate were added. The ethyl acetate layer was separated and washed three times with brine, twice with saturated sodium bicarbonate solutiona and once with brine. The solution was dried over anhydrous sodium sulfate, and the ethyl acetate was removed using a rotary evaporator to give 494 g (105% yield) of crude 3-(2-ethoxycarbonylethyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylic acid ethyl ester as an oil. The crude mixture was chromatographed on a silica gel column using a 1:10 mixture of ethyl acetate:hexane as the eluent to give 122.1 g of pure 3-(2-ethoxycarbonylethyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylic acid ethyl ester as a low melting solid.

reactant | 4-(2-morpholin-4-ylcyclohex-1-enyl)-4-oxo-butyric acid ethyl ester | 454 g | C(C)OC(CCC(=O)C1=C(CCCC1)N1CCOCC1)=O | C16H25NO4
reactant | diethyl aminomalonate hydrochloride | 398 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | sodium acetate | 162 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 2500 mL | O | H2O
product | 3-(2-ethoxycarbonylethyl)-4,5,6,7-tetrahydro-1H-indole-2-carboxylic acid ethyl ester | 494 g, 105% yield | C(C)OC(=O)C=1NC=2CCCCC2C1CCC(=O)OCC | C16H23NO4
